US07915250B2
To a mixture of 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-(1-oxa-5-azaspiro[2,3]hex-5-ylcarbonyl)aniline (0.15 g, 0.33 mmol), prepared using procedures similar to those described in Example 21, and nitroguanidine (0.1 g, 1.00 mmol) in tetrahydrofuran (3.00 mL) an aqueous solution of sodium hydroxide (1.0 mL, 2.0 mmol) was added and the reaction mixture was stirred at 70° C. for 16 hours. The reaction mixture was concentrated in vacuo. The crude product was purified by reverse phase preparative HPLC. The fractions were collected, and the solvent was concentrated. The residue was partitioned with ethyl acetate. The organic layer was washed with saturated aqueous sodium bicarbonate, brine and dried over anhydrous sodium sulfate. Filtration and concentration resulted in an amorphous residue, which was dissolved in methanol, and 4 N HCl in dioxane (80 μL, 0.33 mmol) was added to the solution. A white precipitate formed and was collected by filtration. The solid was washed with hexane, and dried to afford 76 mg (38%) 1-{[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]methyl}-3-nitroguanidine hydrochloride. 1H NMR (400 MHz, d4-MeOH): 7.46 (2d, 1H), 7.36 (m, 1H), 7.29 (m, 1H), 7.02 (m, 1H), 6.63 (m, 1H), 4.22 (m, 1H), 4.01 (m, 2H), 3.86 (m, 1H), 3.51 (d, 2H); MS (EI) for C18H16F3IN6O4: 565 (MH+).

reactant | 2,3-difluoro-N-(2-fluoro-4-iodophenyl)-6-(1-oxa-5-azaspiro[2,3]hex-5-ylcarbonyl)aniline | 0.33 mmol, 0.15 g | FC1=C(NC2=C(C=C(C=C2)I)F)C(=CC=C1F)C(=O)N1CC2(CO2)C1 | C17H12F3IN2O2
reactant | nitroguanidine | 1.00 mmol, 0.1 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium hydroxide | 2.0 mmol, 1.0 mL | [OH-].[Na+]
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 0.33 mmol, 80 μL | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 3.00 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-{[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]methyl}-3-nitroguanidine hydrochloride | 76 mg, 38% | Cl.FC=1C(=C(C=CC1F)C(=O)N1CC(C1)(O)CNC(=N)N[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | InChI=1S/C18H16F3IN6O4.ClH/c19-11-3-2-10(15(14(11)21)25-13-4-1-9(22)5-12(13)20)16(29)27-7-18(30,8-27)6-24-17(23)26-28(31)32;/h1-5,25,30H,6-8H2,(H3,23,24,26);1H
